US05595989
To a solution of phenothiazine (4.0 g, 0.02 mol) in dry dimethylformamide (100 ml) kept under an atmosphere of nitrogen, sodium hydride (1.0 g, 0.025 mol, 60% dispersion in oil) was carefully added. The reaction mixture was left stirring for 15 minutes. 1-Bromo-3-chloropropane (8.0 g, 0.05 mol) was added and the mixture was left stirring overnight. Ammonium chloride (2.0 g, 0.04 mol) was added, and after continued stirring for 30 minutes the solution was poured onto water (300 ml). The mixture was extracted with dichloromethane (2×200 ml). The combined organic extracts were dried (MgSO4), filtered and the solvent evaporated. This afforded a residue which was purified by column chromatography on silica gel (250 g) using a mixture of n-heptane and ethyl acetate (9:1) as eluent. 4.4 g (80%) of 10-(3-chloropropyl)-10H-phenothiazine was obtained as an oil. Rf : 0.55 (SiO2 ; n-heptane/ethyl acetate=1:1).

reactant | phenothiazine | 0.02 mol, 4.0 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | sodium hydride | 0.025 mol, 1.0 g | [H-].[Na+]
reactant | 1-Bromo-3-chloropropane | 0.05 mol, 8.0 g | BrCCCCl | C3H6BrCl
reactant | Ammonium chloride | 0.04 mol, 2.0 g | [Cl-].[NH4+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 10-(3-chloropropyl)-10H-phenothiazine | 4.4 g, 80% | ClCCCN1C2=CC=CC=C2SC=2C=CC=CC12 | C15H14ClNS
